US06028100
To a mixture of 0.5 g of crude 3-ethyl-4-hydroxy-5-methylphenyl benzoate, 0.48 g of 3-(4-(trifluoromethyl)benzamido)propan-1-ol, 0.54 g of triphenylphosphine and 10 ml of tetrahydrofuran was added dropwise a solution of 0.41 g of diisopropylazodicarboxylate dissolved in 2 ml of tetrahydrofuran, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was concentrated under reduced pressure to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.87 g of 3-ethyl-5-methyl-4-(3-(4-(trifluromethyl)benzamido)propyloxyphenyl benzoate (90% yield).

reactant | 3-ethyl-4-hydroxy-5-methylphenyl benzoate | 0.5 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)O)CC | C16H16O3
reactant | 3-(4-(trifluoromethyl)benzamido)propan-1-ol | 0.48 g | FC(C1=CC=C(C(=O)NCCCO)C=C1)(F)F | C11H12F3NO2
reactant | triphenylphosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.41 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-(trifluromethyl)benzamido)propyloxyphenyl benzoate | 90% yield | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)OCCCNC(C1=CC=C(C=C1)C(F)(F)F)=O | C24H20F3NO4
